US06008404
Hexyl Acrylate
A 4-necked 3-liter round-bottomed flask equipped with a mechanical stirrer and a Teflon paddle, 12-inch column (packed with 0.20 inch Propak packing, approximately 6 plates) fitted with a variable take-off distillation head, an air sparge tube (12 ml/min.), a side arm fitted with a 12" immersion thermometer and a 500-mL pressure equalizing dropping funnel is charged with 204 g (2 moles) of hexyl alcohol. MEHQ (0.97 g, 0.0075 moles), dibutyltin oxide (4.98 g, 0.02 moles), lithium bromide (1.5 g, 0.017 moles), heptane (50 g), and methyl acrylate (258 g, 3 moles) are added. The reaction mixture is brought to reflux and take off began at such a rate as to maintain a head temperature between 57-59° C. The reflux ratio for most part of the reaction is kept at a ratio of 4:1. The overhead is washed with approximately equal volume of water and the upper phase returned to the pot until the ratio of hexyl acrylate to hexyl alcohol exceeds 7:1. The product is then distilled under reduced pressure. When the overhead temperature corresponds to the boiling point of hexyl acrylate (88-90° C. at ~24 mm Hg) the heart cut was collected until the pot temperature reached 115° C. After distillation, the yield was 228 g (73%) and the heel (62 g) was about 11% of the charge.

reactant | hexyl alcohol | 2 moles, 204 g | C(CCCCC)O | C6H14O
reactant | MEHQ | 0.0075 moles, 0.97 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | dibutyltin oxide | 0.02 moles, 4.98 g | C(CCC)[Sn](CCCC)=O
reactant | lithium bromide | 0.017 moles, 1.5 g | [Br-].[Li+]
reactant | methyl acrylate | 3 moles, 258 g | C(C=C)(=O)OC | C4H6O2
solvent | heptane | 50 g | CCCCCCC | C7H16
product | Hexyl Acrylate | C(C=C)(=O)OCCCCCC | C9H16O2
